US04720500
The procedure is analogous to that described in Example 11, but starting with sodium (2.3 g), 3,4-dichloroacetophenone (19 g) and ethyl formate (11 g). The solid then obtained (22.7 g) is added to 2,6-diaminopyridine (11.6 g). The product obtained after hydrolysis and neutralization with 10N sodium hydroxide (22.4 g; m.p. approximately 140° C.) is dissolved in concentrated hydrochloric acid (d=1.19; 200 cc). The precipitate obtained after hydrolysis with distilled water (300 cc) followed by neutralization with 10N sodium hydroxide, is separated by filtration, washed with distilled water (5×50 cc) and air-dried. 2-Amino-7-(3,4-dichlorophenyl)-1,8-naphthyridine (14.6 g), m.p. 210° C., is obtained.

reactant | sodium | 2.3 g | [Na] | Na
reactant | 3,4-dichloroacetophenone | 19 g | CC(=O)C1=CC(=C(C=C1)Cl)Cl | C8H6Cl2O
reactant | ethyl formate | 11 g | C(=O)OCC | C3H6O2
reactant | 2,6-diaminopyridine | 11.6 g | NC1=NC(=CC=C1)N | C5H7N3
reactant | sodium hydroxide | 10N, 22.4 g | [OH-].[Na+]
reactant | sodium hydroxide | 10N | [OH-].[Na+]
solvent | hydrochloric acid | 200 cc | Cl | ClH
solvent | water | 300 cc | O | H2O
product | 2-Amino-7-(3,4-dichlorophenyl)-1,8-naphthyridine | 14.6 g | NC1=NC2=NC(=CC=C2C=C1)C1=CC(=C(C=C1)Cl)Cl | C14H9Cl2N3
